US07205328B2
Preparation of 5-chloro-1,3-dihydro-3-(2-pyridinylmethylene)-2H-indol-2-one
A 5 mL of ethanol solution containing 5-chlorooxindole (167 mg, 1 mmol), 2-pyridine-carboxaldehyde (129 mg, 1.2 mmol) and 3 drops of piperidine was stirred at 80° C. for 6 hours. After cooling the solution to 5° C., yellow precipitate was obtained (200 mg, 78%). MS: m/z 257 [M+1]+.

reactant | 5-chlorooxindole | 1 mmol, 167 mg | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
reactant | 2-pyridine-carboxaldehyde | 1.2 mmol, 129 mg | N1=C(C=CC=C1)C=O | C6H5NO
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 5-chloro-1,3-dihydro-3-(2-pyridinylmethylene)-2H-indol-2-one | ClC=1C=C2C(C(NC2=CC1)=O)=CC1=NC=CC=C1 | C14H9ClN2O
